US07238808B2
Step 1) 5-Trimethylsilanylethynyl-pyrimidin-2-ylamine
Prepared from commercially available 2-amino-5-iodopyrimidine (60 g, 271 mmol) and trimethylsilylacetylene (49 mL, 354 mmol) as described in example D.1 method 1 step 1. Obtained the title compound as a light brown solid (37.66 g, 73%). MS (ISP) 192 [(M+H)+].

reactant | 2-amino-5-iodopyrimidine | 271 mmol, 60 g | NC1=NC=C(C=N1)I | C4H4IN3
reactant | trimethylsilylacetylene | 354 mmol, 49 mL | C[Si](C)(C)C#C | C5H10Si
product | 5-Trimethylsilanylethynyl-pyrimidin-2-ylamine | 37.66 g, 73% | C[Si](C)(C)C#CC=1C=NC(=NC1)N | C9H13N3Si
